US05780630
A solution of 3.0 grams (0.01 mole) of 6-trifluoromethyl-3-(4-methoxy-phenylmethyl)-2,4(1H,3H)-pyrimidinedione in 25 mL of N,N-dimethylform-amide was stirred and 1.4 grams (excess) of potassium carbonate was added. To this was then added 0.7 mL (0.01 mole) of methyl iodide. Upon completion of the addition the reaction mixture was stirred at ambient temperature for about 18 hours, then poured into a mixture of 100 mL of ice and 100 mL of aqueous 10% hydrochloric acid. The resultant solid was collected by filtration and washed with water. The solid was then dissolved in 200 mL of ethyl acetate and dried with magnesium sulfate. The mixture was filtered and the filtrate concentrated under reduced pressure, yielding 2.1 grams (66.9% yield) of 1-methyl-6-trifluoromethyl-3-(4-methoxyphenylmethyl)-2,4(1H,3H)-pyrimidinedione, mp 79°-80° C. The NMR spectrum was consistent with the proposed structure.

reactant | 6-trifluoromethyl-3-(4-methoxy-phenylmethyl)-2,4(1H,3H)-pyrimidinedione | 0.01 mole, 3.0 grams | FC(C1=CC(N(C(N1)=O)CC1=CC=C(C=C1)OC)=O)(F)F | C13H11F3N2O3
reactant | potassium carbonate | 1.4 grams | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 0.01 mole, 0.7 mL | CI | CH3I
reactant | hydrochloric acid | Cl | ClH
solvent | N,N-dimethylform-amide | 25 mL | CN(C=O)C | C3H7NO
product | 1-methyl-6-trifluoromethyl-3-(4-methoxyphenylmethyl)-2,4(1H,3H)-pyrimidinedione | 2.1 grams, 66.9% yield | CN1C(N(C(C=C1C(F)(F)F)=O)CC1=CC=C(C=C1)OC)=O | C14H13F3N2O3
